### PR TITLE
Add Erdős Problem 673 (sums of ratios of consecutive divisors), link the formal proof

### LINKED ISSUE #6382: Erdős Problem 673
### What is the Erdős problem?

https://www.erdosproblems.com/673

Let $1=d_1<\cdots <d_{\tau(n)}=n$ be the divisors of $n$ and $G(n) = \sum_{1\leq i<\tau(n)}\frac{d_i}{d_{i+1}}$. Is it true that $G(n)\to \infty$ for almost all $n$? Can one prove an asymptotic formula for $\sum_{n\leq X}G(n)$?

Status: proved (trivial per Erdős [Er82e] / Tao; $\sum_{n\le X}G(n)\sim X\log X$). A formal proof exists in plby/lean-proofs (`Erdos673.erdos_673`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6382.

### What changed
Adds `FormalConjectures/ErdosProblems/673.lean` with `G n = ∑ dᵢ/dᵢ₊₁` over consecutive divisors (indexed by `Nat.nth (· ∣ n)`, as in `884.lean`):
- `erdos_673.parts.i` (`answer(True)`): `G(n) → ∞` for almost all `n` (as `{n | C < G n}` has density `1` for every `C`).
- `erdos_673.parts.ii`: the asymptotic formula `∑_{n ≤ X} G(n) ∼ X log X`.
- `variants.average`: `(1/X) ∑_{n ≤ X} G(n) → ∞`.

All linked to plby/lean-proofs `Erdos673.erdos_673` (Codex and GPT-5.6 Sol; 12 Mathlib-only files).
- Sorry'd textbook variant: Tao's bounds `τ(n/m)/m ≤ G(n) ≤ τ(n)`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos673.erdos_673` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby enumerates divisors with `orderEmbOfFin`; the bridge identifies it with `Nat.nth` via `orderEmbOfFin_unique`):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics Real

namespace Bridge673

/-- `Nat.nth (· ∣ n)` agrees with the ordered enumeration of the divisors. -/
lemma nth_eq_divisorSequence {n : ℕ} (hn : n ≠ 0) (i : Fin n.divisors.card) :
    Nat.nth (· ∣ n) i = Erdos673Plby.divisorSequence n i := by
  have hf : (Set.ofPred (· ∣ n)).Finite := by
    refine (Set.finite_Iic n).subset ?_
    intro d hd
    exact Nat.le_of_dvd (Nat.pos_of_ne_zero hn) hd
  have hset : hf.toFinset = n.divisors := by
    ext d
    simp [Nat.mem_divisors, hn]
  -- the strictly monotone enumeration of the divisors is unique
  have hcard : n.divisors.card = n.divisors.card := rfl
  have hunique := Finset.orderEmbOfFin_unique hcard (f := fun i : Fin n.divisors.card =>
    Nat.nth (· ∣ n) i) (fun i => ?_) ?_
  · exact congrFun hunique i
  · have := Nat.nth_mem_of_lt_card hf (n := i) (by rw [hset]; exact i.2)
    exact Nat.mem_divisors.2 ⟨this, hn⟩
  · intro i j hij
    exact Nat.nth_lt_nth_of_lt_card hf hij (by rw [hset]; exact j.2)

lemma G_eq (n : ℕ) : Erdos673.G n = Erdos673Plby.G n := by
  unfold Erdos673.G Erdos673Plby.G
  refine Finset.sum_congr rfl fun i _ => ?_
  have hn : n ≠ 0 := by
    rintro rfl
    have := i.2
    simp at this
  rw [nth_eq_divisorSequence hn ⟨i.1, by omega⟩, nth_eq_divisorSequence hn ⟨i.1 + 1, by omega⟩]

theorem parts_i : type_of% Erdos673.erdos_673.parts.i := by
  show True ↔ _
  simp only [true_iff, G_eq]
  exact Erdos673Plby.erdos_673.1

theorem parts_ii : type_of% Erdos673.erdos_673.parts.ii := by
  simp only [G_eq]
  exact Erdos673Plby.erdos_673.2.1

theorem average : type_of% Erdos673.erdos_673.variants.average := by
  simp only [G_eq]
  exact Erdos673Plby.erdos_673.2.2

#print axioms Erdos673Plby.erdos_673
#print axioms parts_i
#print axioms parts_ii
#print axioms average

end Bridge673
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«673»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/673.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/673.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
